US06410792B1
2-(4-Benzyl-4-hydroxypiperidin-1-yl)-N-(4-cyclohexylphenyl)acetamide
A mixture of N-(4-cyclohexyl-phenyl)-2-bromoacetamide (29.6 mg, 0.10 mmol), 4-benzyl-4-hydroxypiperidine (19.1 mg, 0.10 mmol), and potassium carbonate (13.8 mg, 0.1 mmol) in dimethyl sulfoxide (1.0 mL) was stirred 1 hour. The mixture was filtered through a short pad of Celite in a pasteur pipet TLC Rf 0.21 (silica gel, 50:50 hexane/ethyl acetate), 0.14 (reverse phase, 80:20 methanol/water); HPLC: 5.89 min (C18 Cartridge column (Perkin Elmer/PE Xpress #0258-0164) 20:80 Acetonitrile/water to 95:5 acetonitrile/water); LC-MS: 407 (M+H+). The filtrate was tested directly in the in vitro biological assays.

reactant | N-(4-cyclohexyl-phenyl)-2-bromoacetamide | 0.10 mmol, 29.6 mg | C1(CCCCC1)C1=CC=C(C=C1)NC(CBr)=O | C14H18BrNO
reactant | 4-benzyl-4-hydroxypiperidine | 0.10 mmol, 19.1 mg | C(C1=CC=CC=C1)C1(CCNCC1)O | C12H17NO
reactant | potassium carbonate | 0.1 mmol, 13.8 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 1.0 mL | CS(=O)C | C2H6OS
product | 2-(4-Benzyl-4-hydroxypiperidin-1-yl)-N-(4-cyclohexylphenyl)acetamide | C(C1=CC=CC=C1)C1(CCN(CC1)CC(=O)NC1=CC=C(C=C1)C1CCCCC1)O | C26H34N2O2
